US06350907B1
(3R)-3-({[(1S)-2,2-Dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-(3-fluoro-4-phenoxyphenyl)hexanoic acid.
Trifluoroacetic acid (2 mL) was added dropwise over 5 min to a stirred solution of tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-(3-fluoro-4-phenoxyphenyl)hexanoate (876 mg, 1.41 mmol) in anhydrous dichloromethane (6 mL) under nitrogen at 20° C. The solution was stirred for 16 h and concentrated under reduced pressure. The residue was dissolved in toluene and concentrated under reduced pressure (twice). Purification by flash chromatography (eluting with hexane:ethyl acetate:acetic acid=75:25:1) gave the title compound as a yellow gum (784 mg, 98%).

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-(3-fluoro-4-phenoxyphenyl)hexanoate | 1.41 mmol, 876 mg | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1=CC(=C(C=C1)OC1=CC=CC=C1)F)(C)C | C37H47FN2O5
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (3R)-3-({[(1S)-2,2-Dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-(3-fluoro-4-phenoxyphenyl)hexanoic acid | 784 mg, 98% | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)O)CCCC1=CC(=C(C=C1)OC1=CC=CC=C1)F)(C)C | C33H39FN2O5
